US06433211B1
Tetrachloroterephthalonitrile (26.6 g, 0.1 mol) and ethanol (532 g) were mixed, and the resultant mixture was heated to 79° C. with stirring. To the mixture, a 20% aqueous solution of sodium hydroxide (16 g) was added over six hours. Liquid chromatographic analysis revealed the reaction mixture contained 16.5 g of 2,3,5,6-tetrachloro-4-cyanobenzamide (yield 58%).

reactant | Tetrachloroterephthalonitrile | 0.1 mol, 26.6 g | ClC1=C(C(=C(C(=C1C#N)Cl)Cl)C#N)Cl | C8Cl4N2
reactant | sodium hydroxide | 16 g | [OH-].[Na+]
solvent | ethanol | 532 g | C(C)O | C2H6O
product | 2,3,5,6-tetrachloro-4-cyanobenzamide | 16.5 g, yield 58% | ClC1=C(C(=O)N)C(=C(C(=C1Cl)C#N)Cl)Cl | C8H2Cl4N2O
